US08058471B2
Into 1 ml of methanol were dissolved 7 mg (0.01 mmol) of [RuCl2(p-cymene)]2 and 8 mg (0.02 mmol) of (R,R)-TsDPEN to prepare a solution, and to the solution was dropwise added 2 mg (0.02 mmol) of triethylamine, followed by stirring for 0.5 hour at room temperature. To the reaction solution was dropwise added a solution prepared by dissolving 364 mg (2.2 mmol) of phenylpyruvic acid into 4 ml of methanol, and 1.2 ml (8.9 mmol) of triethylamine was furthermore dropwise added thereto. The bath was heated up to a temperature of 40° C., and then 0.25 ml (6.7 mmol) of formic acid was dropwise added over 1 hour, followed by stirring for 2 hours at a bath temperature of 40° C. Upon completion of the reaction, the solvent was distilled off under reduced pressure. Thereto was added 2 ml of water, and then concentrated hydrochloric acid was gradually dropwise added under ice cooling; thus, pH of the solution was adjusted to 2. Extraction was performed twice with 20 ml of ethyl acetate, and then the organic phase was washed with 2 ml of a saturated aqueous solution of sodium chloride, followed by concentration under reduced pressure. As a result, 370 mg (yield 99%, 94% ee) of (2R)-hydroxy-3-phenylpropanoic acid was obtained.

reactant | phenylpyruvic acid | 2.2 mmol, 364 mg | C1(=CC=CC=C1)CC(C(=O)O)=O | C9H8O3
reactant | triethylamine | 8.9 mmol, 1.2 ml | C(C)N(CC)CC | C6H15N
reactant | formic acid | 6.7 mmol, 0.25 ml | C(=O)O | CH2O2
catalyst | (R,R)-TsDPEN | 0.02 mmol, 8 mg | CC1=CC=C(C=C1)S(=O)(=O)N[C@H](C2=CC=CC=C2)[C@@H](C3=CC=CC=C3)N | C21H22N2O2S
catalyst | triethylamine | 0.02 mmol, 2 mg | C(C)N(CC)CC | C6H15N
solvent | methanol | 4 ml | CO | CH4O
solvent | methanol | 1 ml | CO | CH4O
product | (2R)-hydroxy-3-phenylpropanoic acid | 370 mg, yield 99% | O[C@@H](C(=O)O)CC1=CC=CC=C1 | C9H10O3
